US07659245B2
8-Methoxy-2-phenyl-quinazolin-4-ol (126)
The general procedure described above was followed using 2-amino-4-methoxy-3-methyl benzamide as benzamide derivative [A] and benzoyl chloride as acid chloride [B], which gave the title compound (2.0 g, 80%), [M+H]=253.

reactant | 2-amino-4-methoxy-3-methyl benzamide | NC1=C(C(=O)N)C=CC(=C1C)OC | C9H12N2O2
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 8-Methoxy-2-phenyl-quinazolin-4-ol | 2.0 g, 80% | COC=1C=CC=C2C(=NC(=NC12)C1=CC=CC=C1)O | C15H12N2O2
